US04424351
2.75 g (0.01 moles) of 3-(p-hydroxyphenyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride are reacted with pyridine-3-carbonyl chloride as described in Example 2 to obtain 1-nicotinoyl-3-(p-hydroxyphenyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride with a yield of 79%; m.p.: 212°-213° C.

reactant | 3-(p-hydroxyphenyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | 0.01 moles, 2.75 g | Cl.OC1=CC=C(C=C1)C=1NNC2=C(N1)C=NC=C2
reactant | pyridine-3-carbonyl chloride | N1=CC(=CC=C1)C(=O)Cl | C6H4ClNO
product | 1-nicotinoyl-3-(p-hydroxyphenyl)-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | yield of 79% | Cl.C(C1=CN=CC=C1)(=O)N1NC(=NC2=C1C=CN=C2)C2=CC=C(C=C2)O | InChI=1S/C18H13N5O2.ClH/c24-14-5-3-12(4-6-14)17-21-15-11-20-9-7-16(15)23(22-17)18(25)13-2-1-8-19-10-13;/h1-11,24H,(H,21,22);1H
